US07202253B2
A solution of 1-phenyl-cyclohexanecarbonitrile (11.0 g; 59 mmol) in tetrahydrifuran (100 mL) was cooled to 0° C. and treated with lithium aluminum hydride (11 g, 289 mmol) in several portions over the course of 0.5 h. When the addition of lithium aluminum hydride was complete the cooling bath was removed and the reaction mixture was allowed to stir at room temperature for 12 h. The reaction mixture was cooled back to 0° C. and carefully quenched by dropwise addition of 2 N NaOH (approximately 20 mL), diluted with ethyl ether, filtered through a celite plug and dried (magnesium sulfate). C-(1-Phenyl-cyclohexyl)-methylamine was obtained as a colorless oil which was used without further purification. LCMS m/z=190.2 (M+H)+

reactant | 1-phenyl-cyclohexanecarbonitrile | 59 mmol, 11.0 g | C1(=CC=CC=C1)C1(CCCCC1)C#N | C13H15N
reactant | lithium aluminum hydride | 289 mmol, 11 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | C-(1-Phenyl-cyclohexyl)-methylamine | C1(=CC=CC=C1)C1(CCCCC1)CN | C13H19N
